US06133294
3-(2,3-Dichloro-5-pyridyl)-5-ethylisoxazole
5,6-Dichloro-N-hydroxy-3-pyridinecarboximidoyl chloride (0.85 g, 3.8 mmol) was dissolved with stirring in ether (60 mL) and a solution of triethylamine (0.8 g, 7.9 mmol) in ether (50 mL) added dropwise to the solution while 1-butyne was bubbled through the reaction mixture. The mixture was stirred at room temperature overnight, filtered, and the filtrate evaporated to dryness under reduced pressure. Recrystallisation of the residue from hexane gave the desired product (0.83 g, 90%) as a cream solid, melting point. 98-9° C.

reactant | 5,6-Dichloro-N-hydroxy-3-pyridinecarboximidoyl chloride | 3.8 mmol, 0.85 g | ClC=1C=C(C=NC1Cl)C(=NO)Cl | C6H3Cl3N2O
reactant | triethylamine | 7.9 mmol, 0.8 g | C(C)N(CC)CC | C6H15N
reactant | 1-butyne | C#CCC | C4H6
solvent | ether | 60 mL | CCOCC | C4H10O
solvent | ether | 50 mL | CCOCC | C4H10O
product | 3-(2,3-Dichloro-5-pyridyl)-5-ethylisoxazole | 0.83 g, 90% | ClC1=NC=C(C=C1Cl)C1=NOC(=C1)CC | C10H8Cl2N2O
